US07855194B2
Piperidin-4-yl-(5-pyridin-3-yl-pyrimidin-2-yl)-amine dihydrochloride
A solution of 4-(5-pyridin-3-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.68 g, 1.91 mmol) in 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 256.5 [M+H]+.

reactant | 4-(5-pyridin-3-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.91 mmol, 0.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C=1C=NC=CC1 | C19H25N5O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(5-pyridin-3-yl-pyrimidin-2-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C=N1)C=1C=NC=CC1 | InChI=1S/C14H17N5.2ClH/c1-2-11(8-16-5-1)12-9-17-14(18-10-12)19-13-3-6-15-7-4-13;;/h1-2,5,8-10,13,15H,3-4,6-7H2,(H,17,18,19);2*1H
